data/mechanisms/records/IMS8-EQ8.75a.json
{"mechanism_id": "IMS8-EQ8.75a", "species": [{"species_id": "hydroxy_methyl_pentanone_molecular_ion", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][C:5]([CH3:7])([CH3:8])[OH:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetone_enol_radical_cation", "mapped_smiles": "[CH2:4]=[C:1]([CH3:3])[OH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetone_neutral", "mapped_smiles": "[CH3:7][C:5](=[O:6])[CH3:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hydroxy_methyl_pentanone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["acetone_enol_radical_cation", "acetone_neutral"]}], "steps": [{"step_id": "step_rH_hydroxyl_charge_retention", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_75a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydroxyl_charge_retention", "support_type": "textbook_proposed", "locator": {"page": 193, "equation": "8.75", "figure": null, "panel": "upper scheme", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "UPPER of the two schemes printed under the single equation number (8.75) on printed page 193 (PDF page 205). Substrate named in the running text: 4-hydroxy-4-methyl-2-pentanone+. , (CH3)2C(OH)-CH2-CO-CH3, drawn with the '+.' written on the KETONE oxygen (n-ionized carbonyl) and with the hydroxyl drawn as a plain 'O' carrying an explicit 'H' -- the O-H hydrogen is the one that migrates. The gamma atom of the six-membered transfer ring is therefore the hydroxyl OXYGEN (ring: H, O6, C5, C4, C1, O2), not a carbon. Products as printed: neutral ACETONE (drawn as the ketone (CH3)2C=O) plus the ionized acetone ENOL, drawn 'H-O(+.)' bonded to a carbon carrying =CH2 and CH3 -- i.e. the charge stays on the half that was ionized (charge RETENTION), which the text says D-labelling (Henneberg 1982) shows to be the favoured route. ARROWS ACTUALLY DRAWN: the page draws 2 arc(s), both single-barbed fishhooks, and both belong to the hydrogen transfer only -- arc (i) starts on the hydroxyl O-H bond and sweeps right, its barb pointing towards the ionized carbonyl oxygen; arc (ii) starts at the '+.' dot on the carbonyl oxygen and sweeps left, its barb pointing at the migrating H. NOTHING is drawn on the C4-C5 bond or on the C1=O2 pi bond. ENCODING (honest divergence): the migrating hydrogen cannot carry an atom map -- RDKit folds a mapped explicit [H:n] back into implicit valence (verified in the project container: '[O:6][H:9]' parses to an O with TotalNumHs=1 and no H node), so the two drawn fishhooks collapse into the single heavy-atom move <1> (one electron passes from O2 to O6: O2 spends its odd electron on the new O-H bond while the electron left behind by the homolysed O6-H bond stays on O6). Moves <2>-<6> are IMPLICIT, i.e. required for electron balance and for the drawn products but NOT drawn on the page: <2>+<4> homolyse the C4-C5 sigma bond (one electron into the forming C5=O6 pi of acetone, one into the forming C1=C4 pi of the enol), <3> is the O6 radical electron completing the C5=O6 pi, and <5>+<6> homolyse the C1=O2 pi (one electron completing the C1=C4 pi, the other returning to O2 as its odd electron, which is why O2 keeps '+.' in the product). RESONANCE (convention C): the enol radical cation is encoded exactly in the O-localised Lewis form the book draws, CH2=C(CH3)-OH+. ; its distonic partner .CH2-C(CH3)=OH+ is not drawn and is not used here. INTENSITY: the prose immediately above the scheme states that the ion 'C3H6O+. (m/z 58)' is formed 'in 20% abundance', so relative_intensity 0.20 is a printed number, not a curator estimate -- but it is the TOTAL m/z 58 abundance, to which the lower scheme (IMS8-EQ8.75b, charge migration) also contributes; the same sentence says charge retention (this scheme) is favoured. The page does not restate the ionizing energy; standard 70 eV EI is assumed per the book's convention."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58_enol_charge_retention", "species_id": "acetone_enol_radical_cation", "step_id": "step_rH_hydroxyl_charge_retention", "observed_mz": 58.0413, "relative_intensity": 0.2, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
